US08729102B2
A) methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1-methyl-1H-pyrazole-5-carboxylate
Using methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate and iodomethane, and in the same manner as in Example 8, step B, the title compound was obtained.

reactant | methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate | C(C)(C)(C)OC(=O)N[C@H](COC1=NNC(=C1)C(=O)OC)C | C13H21N3O5
reactant | iodomethane | IC | CH3I
product | methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1-methyl-1H-pyrazole-5-carboxylate | C(C)(C)(C)OC(=O)N[C@H](COC1=NN(C(=C1)C(=O)OC)C)C | C14H23N3O5
